### PR TITLE
[Merged by Bors] - feat(RingTheory): group-like elements

### PR DESCRIPTION
**Pull request by YaelDillies**
Define group-like elements in a bialgebra, ie elements such that `η a = 1` and `Δ a = a ⊗ₜ a`.

We prove that group-like elements of a coalgebra over a domain are linearly independent, group-like elements of a bialgebra form a monoid, group-like elements of a Hopf algebra form a group.

From Toric

Co-authored-by: Michał Mrugała <kiolterino@gmail.com>

---
- [x] depends on: #24747
- [x] depends on: #31515

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 1]
```diff
@@ -0,0 +1,182 @@
...
+/-- The group of group-like elements in a bialgebra. -/
+abbrev GroupLike : Type _ := ({
+  carrier := {u | IsGroupLikeElem R (u : A)}
+  mul_mem' := .mul
+  one_mem' := .one
+  inv_mem' := .unitsInv
+} : Subgroup Aˣ)
+
+/-- Group structure on group-like elements of a bialgebra, given by multiplication. -/
+instance GroupLike.instGroup : Group (GroupLike R A) := by unfold GroupLike; infer_instance
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean:104]: Is the `unfold` needed here?

Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/GroupLike.lean]: No, good point!

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 2]
```diff
@@ -0,0 +1,167 @@
...
+import Mathlib.RingTheory.Bialgebra.Equiv
+import Mathlib.RingTheory.Flat.Domain
+
+/-!
+# Group-like elements in a bialgebra
+
+This file defines group-like elements in a bialgebra, ie units `a` such that `Δ a = a ⊗ₜ a`.
+
+The motivating example is the group ring `R[G]`. Group-like elements of `R[G]` are exactly the image
+of `G` inside `R[G]`. We note two things: these group-like elements form a group and are linearly
```
Comment (erdOne) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean:15]: > Group-like elements of `R[G]` are exactly the image
of `G` inside `R[G]`

I think this is false over arbitrary rings according to Sophie Morel?

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 3]
```diff
@@ -0,0 +1,167 @@
...
+  [Bialgebra R B] {a b : A}
+
+variable (R) in
+/-- A group-like element in a coalgebra is a unit `a` such that `Δ a = a ⊗ₜ a`. -/
+structure IsGroupLikeElem (a : A) where
+  isUnit : IsUnit a
+  comul_eq_tmul_self : comul (R := R) a = a ⊗ₜ a
+
+@[simp] lemma IsGroupLikeElem.ne_zero [Nontrivial A] (ha : IsGroupLikeElem R a) : a ≠ 0 :=
+  ha.isUnit.ne_zero
```
Comment (erdOne) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean:44]: What does tagging this as simp do? Does `simp` now try to infer `Bialgebra R` and create a `IsGroupLikeElem R a` subgoal for every goal of the form `a ≠ 0`?

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 4]
```diff
@@ -0,0 +1,167 @@
...
+
+/-- The image of a group-like element by the counit is `1`, if `algebraMap R A` is injective. -/
+lemma IsGroupLikeElem.counit_eq_one (ha : IsGroupLikeElem R a) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean:47]: Do you need to specify the "if `algebraMap R A` is injective" part if it is always injecitive?

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 5]
```diff
@@ -0,0 +1,167 @@
...
+  simpa [← Ring.inverse_of_isUnit] using ha.unitsInv (u := ha.isUnit.unit)
+
+variable (R A) in
+/-- The group of group-like elements in a bialgebra. -/
+abbrev GroupLike : Type _ := ({
+  carrier := {u | IsGroupLikeElem R (u : A)}
+  mul_mem' := .mul
+  one_mem' := .one
+  inv_mem' := .unitsInv
+} : Subgroup Aˣ)
```
Comment (erdOne) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean:102]: I think it would be useful to define the subgroup separately so that one can specialize some results later.

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/GroupLike.lean:44]: Yes

Comment (erdOne) [reply Mathlib/RingTheory/Bialgebra/GroupLike.lean:44]: Is this not very bad performance wise?

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/GroupLike.lean:102]: This hasn't come up, and I think that's because the subgroup the subgroup gets unified already wherever it is necessary. I would rather leave it like that out of not wanting to complexify things without a motivating application

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/GroupLike.lean:44]: Well, only if you import that lemma, and even then I'm not sure, since synthesizing `HopfAlgebra R A` fails quickly when not available

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/GroupLike.lean:15]: Yes, sorry

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/GroupLike.lean]: Indeed, performance is quite bad. Let's remove it

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 6]
```diff
@@ -0,0 +1,166 @@
...
+# Group-like elements in a bialgebra
+
+This file defines group-like elements in a bialgebra, ie units `a` such that `Δ a = a ⊗ₜ a`.
+
+The motivating example is the group ring `R[G]`. For a domain `R`, group-like elements of `R[G]` are
+exactly the image of `G` inside `R[G]`. We note two things: these group-like elements form a group
+and are linearly independent.
+
+In an arbitrary bialgebra, group-like elements always form a group, and are linearly independent if
+the base ring is.
```
Comment (erdOne) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean:19]:
```suggestion
the base ring is a domain.
```
Or commutative? I'm not sure what you wanted to say here.

**Review by Parcly-Taxel — APPROVED** [review]

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 7]
```diff
@@ -0,0 +1,166 @@
...
+  simpa [← Ring.inverse_of_isUnit] using ha.unitsInv (u := ha.isUnit.unit)
+
+variable (R A) in
+/-- The group of group-like elements in a bialgebra. -/
+abbrev GroupLike : Type _ := ({
+  carrier := {u | IsGroupLikeElem R (u : A)}
+  mul_mem' := .mul
+  one_mem' := .one
+  inv_mem' := .unitsInv
+} : Subgroup Aˣ)
```
Comment (erdOne) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean]:
```suggestion
abbrev GroupLike : Type _ := 
  { carrier := {u | IsGroupLikeElem R (u : A)}
    mul_mem' := .mul
    one_mem' := .one
    inv_mem' := .unitsInv : Subgroup Aˣ }
```
Or whatever you prefer but at least it is missing an indentation.

**Comment by Julian-Kuelshammer** [comment]
I am a bit confused by terminology here as the definition of group-like element in a coalgebra is an element $w$ with $\Delta(w)=w\otimes w$ and $\varepsilon(w)=1$, no invertible requirement as there is no multiplication, but extra condition on counit. See for example https://ncatlab.org/nlab/show/grouplike+element and https://mathoverflow.net/q/86197/15887

**Comment by YaelDillies** [comment]
Thank you for pointing this out! Our application is to Hopf algebras, so we did not notice at all that our definition was incorrect in greater generality.

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 8]
```diff
@@ -0,0 +1,154 @@
...
+open Coalgebra Function TensorProduct
+
+variable {F R A B : Type*}
+
+section CommSemiring
+variable [CommSemiring R] [AddCommMonoid A] [AddCommMonoid B] [Module R A] [Coalgebra R A]
+  [Module R B] [Coalgebra R B] {a b : A}
+
+variable (R) in
+/-- A group-like element in a coalgebra is an element `a` such that `η a = 1` and `Δ a = a ⊗ₜ a`. -/
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]: If `η` isn't yet legal mathlib notation, then please use $\LaTeX$ here instead.

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 9]
```diff
@@ -0,0 +1,154 @@
...
+
+attribute [simp] isGroupLikeElem_val
+
+lemma val_injective : Injective (val : GroupLike R A → A) := by rintro ⟨a, ha⟩; congr!
+
+@[simp, norm_cast] lemma val_inj {a b : GroupLike R A} : a.val = b.val ↔ a = b :=
+  val_injective.eq_iff
+
+/-- Identity equivalence between `GroupLike R A` and `{a : A | IsGroupLikeElem R a}`. -/
+def valEquiv : GroupLike R A ≃ {a : A | IsGroupLikeElem R a} where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
def valEquiv : GroupLike R A ≃ {a : A // IsGroupLikeElem R a} where
```
or even
```suggestion
def valEquiv : GroupLike R A ≃ Subtype (IsGroupLikeElem R) where
```
to avoid an intermediate coercion

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean [hunk 10]
```diff
@@ -0,0 +1,54 @@
...
+section Semiring
+variable [CommSemiring R] [Semiring A] [HopfAlgebra R A] {a b : A}
+
+@[simp] lemma IsGroupLikeElem.antipode_mul_cancel (ha : IsGroupLikeElem R a) :
+    antipode R a * a = 1 := by
+  simpa [ha, -mul_antipode_lTensor_comul_apply] using mul_antipode_rTensor_comul_apply (R := R) a
+
+@[simp] lemma IsGroupLikeElem.mul_antipode_cancel (ha : IsGroupLikeElem R a) :
+    a * antipode R a = 1 := by
+  simpa [ha, -mul_antipode_lTensor_comul_apply] using mul_antipode_lTensor_comul_apply (R := R) a
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:28]: Can you combine these into an additional `IsGroupLikeElem.isUnit`?

Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:28]: Oh yeah sorry, we had originally, then I removed it, then I added it back... in Toric 🤦

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 11]
```diff
@@ -0,0 +1,155 @@
...
+open Coalgebra Function TensorProduct
+
+variable {F R A B : Type*}
+
+section CommSemiring
+variable [CommSemiring R] [AddCommMonoid A] [AddCommMonoid B] [Module R A] [Coalgebra R A]
+  [Module R B] [Coalgebra R B] {a b : A}
+
+variable (R) in
+/-- A group-like element in a coalgebra is an element `a` such that $\eta a = 1$ and
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
/-- A group-like element in a coalgebra is an element `a` such that $\eta(a) = 1$ and
```
is presumably how this would be written on paper?

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean [hunk 12]
```diff
@@ -0,0 +1,66 @@
...
+variable (R) in
+/-- Turn a group-like element `a` into a unit with inverse its antipode. -/
+@[simps]
+def Units.ofIsGroupLikeElem (a : A) (ha : IsGroupLikeElem R a) : Aˣ where
+  val := a
+  inv := antipode R a
+  val_inv := ha.mul_antipode_cancel
+  inv_val := ha.antipode_mul_cancel
+
+lemma IsGroupLikeElem.isUnit (ha : IsGroupLikeElem R a) : IsUnit a :=
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: Is this true in some weaker setting (eg for Bialgebra) as `IsRegular`?

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 13]
```diff
@@ -0,0 +1,155 @@
...
+    exact ha.map (CoalgEquivClass.toCoalgEquiv f).symm
+  mpr := .map f
+
+variable (R A) in
+/-- The type of group-like elements in a coalgebra. -/
+@[ext]
+structure GroupLike where
+  /-- The underlying element of a group-like element. -/
+  val : A
+  isGroupLikeElem_val : IsGroupLikeElem R val
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean:65]: What's the benefit of a custom structure here vs just using the subtype?

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:65]: It's less clunky to make group-like elements into a monoid/group that way

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: No. Consider eg `R[M]` for `M` a monoid. For `m : M`, `of m` is a group-like element (I have formalised this, and it will be in a later PR) but is a unit iff `m` itself is a unit.

In fact, commutative bialgebras with all group-like elements invertible are Hopf algebras: https://mathoverflow.net/questions/86197/is-a-bialgebra-with-all-group-like-elements-invertible-a-hopf-algebra

**Comment by smorel394** [comment]
Yaël asked me to opine on the mathematical content, so I had a look at the definitions and results and they all look fine to me. 
About the "custom structure `GroupLike` vs subtype" question, I can say that I was using group-like elements as a subtype a while ago, and it was a bit clunky.

Would it be potentially useful to make a `valGroupHom` from `GroupLike A` to `Aˣ` when `A` is a Hopf algebra?

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: Sorry, I misread your message. I will change my answer to "I have no idea how to prove/disprove this". Probably `R[M]` for `M` a non-cancellative monoid gives you a counterexample

**Comment by YaelDillies** [comment]
> Would it be potentially useful to make a `valGroupHom` from `GroupLike A` to `Aˣ` when `A` is a Hopf algebra?

Very good idea! Done

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 14]
```diff
@@ -0,0 +1,155 @@
...
+  -- Assume that there is some `c : A → R` such that `∑ x ∈ s, c x • x = -c a • a`.
+  -- We want to prove `c a = 0` and `∀ x ∈ s, c x = 0`.
+  simp only [linearIndepOn_finset_iff, id, Finset.sum_cons, Finset.mem_cons, forall_eq_or_imp,
+    add_eq_zero_iff_eq_neg', ← neg_smul]
+  rintro c hc
+  -- `x ⊗ y` over `x, y ∈ s` are linearly independent since `s` is linearly independent and
+  -- `R` is a domain.
+  replace ih := ih.tmul_of_isDomain ih
+  simp_rw [← Finset.coe_product, linearIndepOn_finset_iffₛ, id] at ih
+  -- Tensoring the equality `∑ x ∈ s, c x • x = -c a • a` with itself, we get by linear independence
```
Comment (Whysoserioushah) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]: Love the docstring for long proofs!

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 15]
```diff
@@ -0,0 +1,155 @@
...
+
+section CommRing
+variable [CommRing R] [IsDomain R] [AddCommGroup A] [Module R A] [Coalgebra R A]
+  [NoZeroSMulDivisors R A]
+
+open Submodule in
+/-- Group-like elements over a domain are linearly independent. -/
+lemma linearIndepOn_isGroupLikeElem : LinearIndepOn R id {a : A | IsGroupLikeElem R a} := by
+  classical
+  -- We show that any finset `s` of group-like elements is linearly independent.
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean:98]: I'd argue that where possible `suffices` is better than a docstring

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:98]: I am not sure beginners agree with you. Anyway I am striving to hold a full proof within the comments, and your suggestion would break that

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 16]
```diff
@@ -0,0 +1,81 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yaël Dillies, Michał Mrugała
+-/
+import Mathlib.RingTheory.Bialgebra.Basic
+import Mathlib.RingTheory.Coalgebra.GroupLike
+
+/-!
+# Group-like elements in a bialgebra
+
+This file prove that group-like elements in a bialgebra form a monoid.
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean]:
```suggestion
This file proves that group-like elements in a bialgebra form a monoid.
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 17]
```diff
@@ -0,0 +1,155 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yaël Dillies, Michał Mrugała
+-/
+import Mathlib.RingTheory.Coalgebra.Equiv
+import Mathlib.RingTheory.Flat.Domain
+
+/-!
+# Group-like elements in a coalgebra
+
+This file defines group-like elements in a coalgebra, ie elements `a` such that `η a = 1` and
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
This file defines group-like elements in a coalgebra, i.e. elements `a` such that `ε a = 1` and
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 18]
```diff
@@ -0,0 +1,155 @@
...
+open Coalgebra Function TensorProduct
+
+variable {F R A B : Type*}
+
+section CommSemiring
+variable [CommSemiring R] [AddCommMonoid A] [AddCommMonoid B] [Module R A] [Coalgebra R A]
+  [Module R B] [Coalgebra R B] {a b : A}
+
+variable (R) in
+/-- A group-like element in a coalgebra is an element `a` such that $\eta(a) = 1$ and
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
/-- A group-like element in a coalgebra is an element `a` such that $\varepsilon(a) = 1$ and
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 19]
```diff
@@ -0,0 +1,155 @@
...
+
+attribute [simp] IsGroupLikeElem.counit_eq_one IsGroupLikeElem.comul_eq_tmul_self
+
+@[simp] lemma isGroupLikeElem_self {r : R} : IsGroupLikeElem R r ↔ r = 1 := by
+  simp +contextual [isGroupLikeElem_iff]
+
+lemma IsGroupLikeElem.ne_zero [Nontrivial R] (ha : IsGroupLikeElem R a) : a ≠ 0 := by
+  rintro rfl; simpa using ha.counit_eq_one
+
+/-- A coalgebra hom sends group-like elements to group-like elements. -/
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
/-- A coalgebra homomorphism sends group-like elements to group-like elements. -/
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 20]
```diff
@@ -0,0 +1,155 @@
...
+lemma IsGroupLikeElem.map [FunLike F A B] [CoalgHomClass F R A B] (f : F)
+    (ha : IsGroupLikeElem R a) : IsGroupLikeElem R (f a) where
+  counit_eq_one := by rw [CoalgHomClass.counit_comp_apply, ha.counit_eq_one]
+  comul_eq_tmul_self := by rw [← CoalgHomClass.map_comp_comul_apply, ha.comul_eq_tmul_self]; simp
+
+/-- A coalgebra equivalence preserves group-like elements. -/
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]: Do you mean isomorphism here?

**Review by Julian-Kuelshammer — APPROVED** [review]

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean]: Yep!
```suggestion
/-- A coalgebra isomorphism preserves group-like elements. -/
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 21]
```diff
@@ -0,0 +1,155 @@
...
+variable [CommSemiring R] [AddCommMonoid A] [AddCommMonoid B] [Module R A] [Coalgebra R A]
+  [Module R B] [Coalgebra R B] {a b : A}
+
+variable (R) in
+/-- A group-like element in a coalgebra is an element `a` such that $\varepsilon(a) = 1$ and
+$\Delta(a) = a ⊗ a$. -/
+@[mk_iff]
+structure IsGroupLikeElem (a : A) where
+  counit_eq_one : counit (R := R) a = 1
+  comul_eq_tmul_self : comul a = a ⊗ₜ[R] a
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean:37]:
```suggestion
variable (R) in
/-- A group-like element in a coalgebra is an element `a` such that `ε(a) = 1` and `Δ(a) = a ⊗ₜ a`,
where `ε` and `Δ` are the counit and comultiplication respectively. -/
@[mk_iff]
structure IsGroupLikeElem (a : A) where
  /-- A group-like element `a` satisfies `ε(a) = 1`. -/
  counit_eq_one : counit (R := R) a = 1
  /-- A group-like element `a` satisfies `Δ(a) = a ⊗ₜ a`. -/
  comul_eq_tmul_self : comul a = a ⊗ₜ[R] a
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 22]
```diff
@@ -0,0 +1,155 @@
...
+    exact ha.map (CoalgEquivClass.toCoalgEquiv f).symm
+  mpr := .map f
+
+variable (R A) in
+/-- The type of group-like elements in a coalgebra. -/
+@[ext]
+structure GroupLike where
+  /-- The underlying element of a group-like element. -/
+  val : A
+  isGroupLikeElem_val : IsGroupLikeElem R val
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean:65]:
```suggestion
variable (R A) in
/-- The type of group-like elements in a coalgebra. -/
def GroupLike := Subtype (IsGroupLikeElem R (A := A))
```

I saw the discussion about it being more "clunky" to use subtype, but I don't think we have tried literally *defining* it to be the subtype (I hate abbrev); with API, I did not need to make any change to the code that follows. And I would argue that actually it would make life easier, because you would have access to it being a submonoid, so you can define the monoid structure easily!

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 23]
```diff
@@ -0,0 +1,155 @@
...
+
+@[simp, norm_cast] lemma val_inj {a b : GroupLike R A} : a.val = b.val ↔ a = b :=
+  val_injective.eq_iff
+
+/-- Identity equivalence between `GroupLike R A` and `{a : A | IsGroupLikeElem R a}`. -/
+def valEquiv : GroupLike R A ≃ Subtype (IsGroupLikeElem R : A → Prop) where
+  toFun a := ⟨a.1, a.2⟩
+  invFun a := ⟨a.1, a.2⟩
+  left_inv _ := rfl
+  right_inv _ := rfl
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean:85]:
```suggestion
@[coe] def val : GroupLike R A → A := Subtype.val

instance instCoeOut : CoeOut (GroupLike R A) A where coe := val

@[simp] theorem isGroupLikeElem_val (x : GroupLike R A) : IsGroupLikeElem R (x : A) := x.2

lemma val_injective : Injective (val : GroupLike R A → A) := Subtype.val_injective

@[ext] theorem ext {x y : GroupLike R A} (h : (x : A) = (y : A)) : x = y := Subtype.ext h

@[simp, norm_cast] lemma val_inj {a b : GroupLike R A} : a.val = b.val ↔ a = b :=
  Subtype.val_inj

/-- Identity equivalence between `GroupLike R A` and `{a : A | IsGroupLikeElem R a}`. -/
def valEquiv : GroupLike R A ≃ Subtype (IsGroupLikeElem R : A → Prop) := Equiv.refl _
```

I hope you would consider this to be an advantage of using Subtype as definition.

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 24]
```diff
@@ -0,0 +1,155 @@
...
+  rw [linearIndepOn_iff_linearIndepOn_finset]
+  rintro s hs
+  -- For this, we do induction on `s`.
+  induction s using Finset.cons_induction with
+  -- The case `s = ∅` is trivial.
+  | empty => simp
+  -- Let's deal with the `s ∪ {a}` case.
+  | cons a s has ih =>
+  simp only [Finset.cons_eq_insert, Finset.coe_insert, Set.subset_def, Set.mem_insert_iff,
+    Finset.mem_coe, Set.mem_setOf_eq, forall_eq_or_imp] at hs
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean:108]:
```suggestion
  simp_rw [Finset.coe_cons, Set.insert_subset_iff, Set.subset_def, Set.mem_setOf,
    Finset.mem_coe] at hs
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 25]
```diff
@@ -0,0 +1,155 @@
...
+  obtain ⟨ha, hs⟩ := hs
+  specialize ih hs
+  -- Assume that there is some `c : A → R` such that `∑ x ∈ s, c x • x = -c a • a`.
+  -- We want to prove `c a = 0` and `∀ x ∈ s, c x = 0`.
+  simp only [linearIndepOn_finset_iff, id, Finset.sum_cons, Finset.mem_cons, forall_eq_or_imp,
+    add_eq_zero_iff_eq_neg', ← neg_smul]
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
  simp_rw [linearIndepOn_finset_iff, id, Finset.sum_cons, Finset.forall_mem_cons,
    add_eq_zero_iff_eq_neg', ← neg_smul]
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 26]
```diff
@@ -0,0 +1,155 @@
...
+  induction s using Finset.cons_induction with
+  -- The case `s = ∅` is trivial.
+  | empty => simp
+  -- Let's deal with the `s ∪ {a}` case.
+  | cons a s has ih =>
+  simp only [Finset.cons_eq_insert, Finset.coe_insert, Set.subset_def, Set.mem_insert_iff,
+    Finset.mem_coe, Set.mem_setOf_eq, forall_eq_or_imp] at hs
+  obtain ⟨ha, hs⟩ := hs
+  specialize ih hs
+  -- Assume that there is some `c : A → R` such that `∑ x ∈ s, c x • x = -c a • a`.
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]: Does it make sense to have something like [LinearIndepOn.id_insert](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/LinearIndependent/Lemmas.html#LinearIndepOn.id_insert) but for general rings so that we don't need to deal with the negative sign?

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 27]
```diff
@@ -0,0 +1,155 @@
...
+    refine smul_right_injective _ has ?_
+    calc
+          c x • a
+      _ = -c a • a := by congr; simpa [hx, has, eq_comm, -neg_mul] using key (x, x)
+      _ = ∑ y ∈ s, c y • y := by rw [hc]
+      _ = c x • x := by
+        rw [Finset.sum_eq_single x _ (by simp [hx])]
+        rintro y hys hyx
+        have : c y = 0 := by simpa [*] using key (y, x)
+        simp [this]
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
  -- Therefore, `c x = 0` for all `x ∈ s`.
  replace key x (hx : x ∈ s) : c x = 0 := by
    -- Otherwise, we deduce from `key` that `c y = 0` for any `y ≠ x` with `y ∈ s`.
    by_contra! hcx
    have hcy (y) (hys : y ∈ s) (hyx : y ≠ x) : c y = 0 := by
      simpa [*] using (key (y, x) (by simp [*])).symm
    -- Then substitute this into `hc` to get `c x • x = -c a • a`.
    rw [Finset.sum_eq_single x (by simp +contextual [hcy]) (by simp [hx])] at hc
    -- But `key` also says that `c x = -c a`.
    have hcxa : -c a = c x := mul_left_injective₀ hcx (by simpa using (key (x, x) (by simp [*])))
    -- So `x = a`...
    obtain rfl : x = a := by rwa [hcxa, smul_right_inj hcx] at hc
    -- ... which contradicts `x ∈ s` and `a ∉ s`.
    contradiction
```

This is just a personal preference, I like forward proofs.

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 28]
```diff
@@ -0,0 +1,155 @@
...
+  -- We are now done, since `c a • a = ∑ x ∈ s, c x • x = 0`
+  simp_all [ha.ne_zero]
+
+/-- Group-like elements over a domain are linearly independent. -/
+lemma linearIndep_groupLikeVal : LinearIndependent R (GroupLike.val (R := R) (A := A)) := by
+  simpa using (linearIndependent_equiv GroupLike.valEquiv).2 linearIndepOn_isGroupLikeElem
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean:151]:
```suggestion
/-- Group-like elements over a domain are linearly independent. -/
lemma linearIndep_groupLikeVal : LinearIndependent R (GroupLike.val (R := R) (A := A)) :=
  linearIndepOn_isGroupLikeElem
```
after using `Subtype`

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 29]
```diff
@@ -0,0 +1,81 @@
...
+  counit_eq_one := by simp [ha]
+  comul_eq_tmul_self := by simp [ha]
+
+/-- Group-like elements in a bialgebra are stable under inverses. -/
+lemma IsGroupLikeElem.of_mul_eq_one (hab : a * b = 1) (hba : b * a = 1) (ha : IsGroupLikeElem R a) :
+    IsGroupLikeElem R b where
+  counit_eq_one :=
+    left_inv_eq_right_inv (a := counit a) (by simp [← counit_mul, hba]) (by simp [ha])
+  comul_eq_tmul_self := left_inv_eq_right_inv (a := comul a) (by simp [← comul_mul, hba])
+    (by simp [ha, hab, Algebra.TensorProduct.one_def])
```
Comment (kckennylau) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean:50]:
```suggestion
namespace IsGroupLikeElem

/-- In a bialgebra, `1` is a group-like element. -/
lemma one : IsGroupLikeElem R (1 : A) where
  counit_eq_one := by simp
  comul_eq_tmul_self := by simp [Algebra.TensorProduct.one_def]

/-- Group-like elements in a bialgebra are stable under multiplication. -/
lemma mul (ha : IsGroupLikeElem R a) (hb : IsGroupLikeElem R b) :
    IsGroupLikeElem R (a * b) where
  counit_eq_one := by simp [ha, hb]
  comul_eq_tmul_self := by simp [ha, hb]

/-- Group-like elements in a bialgebra are stable under power. -/
lemma pow {n : ℕ} (ha : IsGroupLikeElem R a) : IsGroupLikeElem R (a ^ n) where
  counit_eq_one := by simp [ha]
  comul_eq_tmul_self := by simp [ha]

/-- Group-like elements in a bialgebra are stable under inverses. -/
lemma of_mul_eq_one (hab : a * b = 1) (hba : b * a = 1) (ha : IsGroupLikeElem R a) :
    IsGroupLikeElem R b where
  counit_eq_one :=
    left_inv_eq_right_inv (a := counit a) (by simp [← counit_mul, hba]) (by simp [ha])
  comul_eq_tmul_self := left_inv_eq_right_inv (a := comul a) (by simp [← comul_mul, hba])
    (by simp [ha, hab, Algebra.TensorProduct.one_def])

end IsGroupLikeElem
```

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 30]
```diff
@@ -0,0 +1,81 @@
...
+/-- Group-like elements in a bialgebra are stable under multiplication. -/
+lemma IsGroupLikeElem.mul (ha : IsGroupLikeElem R a) (hb : IsGroupLikeElem R b) :
+    IsGroupLikeElem R (a * b) where
+  counit_eq_one := by simp [ha, hb]
+  comul_eq_tmul_self := by simp [ha, hb]
+
+/-- Group-like elements in a bialgebra are stable under power. -/
+lemma IsGroupLikeElem.pow {n : ℕ} (ha : IsGroupLikeElem R a) : IsGroupLikeElem R (a ^ n) where
+  counit_eq_one := by simp [ha]
+  comul_eq_tmul_self := by simp [ha]
```
Comment (kckennylau) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean]:
```lean
variable (R A) in
/-- The group-like elements form a submonoid. -/
def submonoid : Submonoid A where
  carrier := {a | IsGroupLikeElem R a}
  one_mem' := one
  mul_mem' := mul

/-- Group-like elements in a bialgebra are stable under power. -/
lemma pow {n : ℕ} (ha : IsGroupLikeElem R a) : IsGroupLikeElem R (a ^ n) :=
  (submonoid R A).pow_mem ha n
```

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 31]
```diff
@@ -0,0 +1,81 @@
...
+
+/-- Group-like elements in a bialgebra are stable under inverses. -/
```
Comment (kckennylau) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean]:
```suggestion
/-- Group-like elements in a bialgebra are stable under inverses, when they exist. -/
```

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 32]
```diff
@@ -0,0 +1,81 @@
...
+lemma IsGroupLikeElem.of_mul_eq_one (hab : a * b = 1) (hba : b * a = 1) (ha : IsGroupLikeElem R a) :
+    IsGroupLikeElem R b where
+  counit_eq_one :=
+    left_inv_eq_right_inv (a := counit a) (by simp [← counit_mul, hba]) (by simp [ha])
+  comul_eq_tmul_self := left_inv_eq_right_inv (a := comul a) (by simp [← comul_mul, hba])
+    (by simp [ha, hab, Algebra.TensorProduct.one_def])
+
+/-- Group-like elements in a bialgebra are stable under inverses. -/
```
Comment (kckennylau) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean]:
```suggestion
/-- Group-like elements in a bialgebra are stable under inverses, when they exist. -/
```

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 33]
```diff
@@ -0,0 +1,81 @@
...
+@[simp] lemma val_pow (a : GroupLike R A) (n : ℕ) : ↑(a ^ n) = (a ^ n : A) := rfl
+
+instance : Monoid (GroupLike R A) := val_injective.monoid val val_one val_mul val_pow
+
+variable (R A) in
+/-- `GroupLike.val` as a monoid hom. -/
+@[simps] def valMonoidHom : GroupLike R A →* A where
+  toFun := val
+  map_one' := val_one
+  map_mul' := val_mul
```
Comment (kckennylau) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean:79]:
```suggestion
instance : Monoid (GroupLike R A) := (IsGroupLikeElem.submonoid R A).toMonoid

@[simp] lemma val_one : (1 : GroupLike R A) = (1 : A) := rfl
@[simp] lemma val_mul (a b : GroupLike R A) : ↑(a * b) = (a * b : A) := rfl
@[simp] lemma val_pow (a : GroupLike R A) (n : ℕ) : ↑(a ^ n) = (a ^ n : A) := rfl

variable (R A) in
/-- `GroupLike.val` as a monoid hom. -/
@[simps] def valMonoidHom : GroupLike R A →* A where
  __ := (IsGroupLikeElem.submonoid R A).subtype
  toFun := val
```

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 34]
```diff
@@ -0,0 +1,81 @@
...
+
+end GroupLike
+end Semiring
+
+variable [CommSemiring R] [CommSemiring A] [Bialgebra R A] {a b : A}
+
+instance GroupLike.instCommMonoid : CommMonoid (GroupLike R A) :=
+  val_injective.commMonoid val val_one val_mul val_pow
```
Comment (kckennylau) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean:87]:
```suggestion
instance GroupLike.instCommMonoid : CommMonoid (GroupLike R A) :=
  (IsGroupLikeElem.submonoid R A).toCommMonoid
```

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean [hunk 35]
```diff
@@ -0,0 +1,70 @@
...
+@[simp] lemma IsGroupLikeElem.antipode_mul_cancel (ha : IsGroupLikeElem R a) :
+    antipode R a * a = 1 := by
+  simpa [ha, -mul_antipode_lTensor_comul_apply] using mul_antipode_rTensor_comul_apply (R := R) a
+
+@[simp] lemma IsGroupLikeElem.mul_antipode_cancel (ha : IsGroupLikeElem R a) :
+    a * antipode R a = 1 := by
+  simpa [ha, -mul_antipode_lTensor_comul_apply] using mul_antipode_lTensor_comul_apply (R := R) a
+
+variable (R) in
+/-- Turn a group-like element `a` into a unit with inverse its antipode. -/
```
Comment (kckennylau) [inline Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:31]:
```suggestion
/-- Turn a group-like element `a` into a unit with inverse being its antipode. -/
```

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean [hunk 36]
```diff
@@ -0,0 +1,70 @@
...
+@[simps]
+def GroupLike.toUnits : GroupLike R A →* Aˣ where
+  toFun a := {
+    val := a
+    inv := antipode R a
+    val_inv := a.2.mul_antipode_cancel
+    inv_val := a.2.antipode_mul_cancel
+  }
```
Comment (kckennylau) [inline Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:39]:
```suggestion
  toFun a :=
  { val := a
    inv := antipode R a
    val_inv := a.2.mul_antipode_cancel
    inv_val := a.2.antipode_mul_cancel }
```

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean [hunk 37]
```diff
@@ -0,0 +1,70 @@
...
+lemma IsGroupLikeElem.isUnit (ha : IsGroupLikeElem R a) : IsUnit a :=
+  (GroupLike.toUnits R ⟨a, ha⟩).isUnit
+
+@[simp] protected lemma IsGroupLikeElem.antipode (ha : IsGroupLikeElem R a) :
+    IsGroupLikeElem R (antipode R a) :=
+  ha.of_mul_eq_one ha.mul_antipode_cancel ha.antipode_mul_cancel
+
+@[simp] lemma IsGroupLikeElem.antipode_antipode (ha : IsGroupLikeElem R a) :
+    antipode R (antipode R a) = a :=
+  left_inv_eq_right_inv ha.antipode.antipode_mul_cancel ha.antipode_mul_cancel
```
Comment (kckennylau) [inline Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:52]:
```suggestion
namespace IsGroupLikeElem

lemma isUnit (ha : IsGroupLikeElem R a) : IsUnit a :=
  (GroupLike.toUnits R ⟨a, ha⟩).isUnit

@[simp] protected lemma antipode (ha : IsGroupLikeElem R a) :
    IsGroupLikeElem R (antipode R a) :=
  ha.of_mul_eq_one ha.mul_antipode_cancel ha.antipode_mul_cancel

@[simp] lemma antipode_antipode (ha : IsGroupLikeElem R a) :
    antipode R (antipode R a) = a :=
  left_inv_eq_right_inv ha.antipode.antipode_mul_cancel ha.antipode_mul_cancel

end IsGroupLikeElem
```

**Review by kckennylau — CHANGES_REQUESTED** [review]
It seems like it has already gone through expert review (by Sophie Morel) on the mathematical front, and the only outstanding issue here seems to be whether we use `Subtype` or a separate `structure`. (I would consider the rest of my suggestions to be minor formatting issues.)

I hope this can be resolved soon!

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 12 above)
Comment (kckennylau) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: Maybe we can defer this to a (potential) later PR.

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean (hunk 2 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Bialgebra/GroupLike.lean]: But this is still true over integral domains, right? And I would suppose also for `R[M]` where `R` is domain and `M` is monoid?

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 8 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean]: Hmm, unintentionally I have made one of my comments that is the reverse of this, mainly because I cannot see LaTeX in docstring inside Lean. What should we do in general?

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 15 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:98]: I think this can be resolved.

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 36 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:39]: I do not like this style because it makes it harder to edit fields

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 35 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:31]: Sorry, I don't buy this. I mean that I *make* the inverse be its antipode, not merely that the inverse is *equal* to its antipode

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean (hunk 30 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/GroupLike.lean]: That's not really a win. Your approach is one line shorter at the expense of a definition I don't need. My approach makes sure that the simp set is powerful enough

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:85]: This is bad, because now you can use the `⟨_, _⟩` notation even though it is wrongly typed.

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 24 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:108]: This doesn't seem like an improvement. My line was autogenerated

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 37 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:52]: That doesn't really gain anything. Furthermore, since it is interspersed in the file with declarations not in the `IsGroupLikeElem` namespace, this is mostly just making the file harder to edit

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 25 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean]: ditto

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 26 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean]: I am not against it, but I couldn't decide what the precise statement should be: should use `Finset.sum`, `Finsupp.sum`, be indexed by what? etc...

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 23 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:85]: But the only context where you can do that is when the expected type is already GroupLike.

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 26 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```lean
import Mathlib

theorem LinearIndepOn.id_insert' {R M : Type*} [Ring R] [AddCommGroup M] [Module R M]
    {s : Set M} {x : M} (hs : LinearIndepOn R id s)
    (hx : ∀ r : R, r • x ∈ Submodule.span R s → r = 0) :
    LinearIndepOn R id (insert x s) :=
  sorry
```

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: Doesn't my counterexample of `R[M]` with `M` a non-cancellative monoid work?

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:85]: Sure, then? That happens in Toric!

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 22 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:65]: ditto

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean (hunk 30 above)
Comment (erdOne) [reply Mathlib/RingTheory/Bialgebra/GroupLike.lean]: I do think that definition is useful if you one day need closure under `Finset.prod` or `Multiset.prod` or `Finsupp.prod` etc. And it also allows you to do point-free calculations if you need to someday.

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 26 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean]: Added in #31515

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 36 above)
Comment (kim-em) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:39]: The style guide is apparently silent on this issue, so best not to flag it in review.

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 24 above)
Comment (kim-em) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:108]: I think this is an improvement (generally, `simp_rw` is more readable because it shows the intermediate goals), but insufficiently important to warrant flagging in review. (i.e. authors should feel encouraged to do this themselves, but it's not worth the noise asking them to do it in individual locations).

Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:108]: My point is that if `simp?` doesn't generate the `simp_rw` call for me, then I shouldn't be the one writing it by hand for the sake of readability, because that would just increase the maintenance burden for little gain.

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 12 above)
Comment (kckennylau) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: Yes, I said that because you haven't formalised that and also haven't resolved the comment, so my comment above meant "let's resolve this conversation, we don't have to prove it here"

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 38]
```diff
@@ -0,0 +1,155 @@
...
+
+section CommSemiring
+variable [CommSemiring R] [AddCommMonoid A] [AddCommMonoid B] [Module R A] [Coalgebra R A]
+  [Module R B] [Coalgebra R B] {a b : A}
+
+variable (R) in
+/-- A group-like element in a coalgebra is an element `a` such that `ε(a) = 1` and `Δ(a) = a ⊗ₜ a`,
+where `ε` and `Δ` are the counit and comultiplication respectively. -/
+@[mk_iff]
+structure IsGroupLikeElem (a : A) where
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
structure IsGroupLikeElem (a : A) : Prop where
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 39]
```diff
@@ -0,0 +1,155 @@
...
+  rintro rfl; simpa using ha.counit_eq_one
+
+/-- A coalgebra homomorphism sends group-like elements to group-like elements. -/
+lemma IsGroupLikeElem.map [FunLike F A B] [CoalgHomClass F R A B] (f : F)
+    (ha : IsGroupLikeElem R a) : IsGroupLikeElem R (f a) where
+  counit_eq_one := by rw [CoalgHomClass.counit_comp_apply, ha.counit_eq_one]
+  comul_eq_tmul_self := by rw [← CoalgHomClass.map_comp_comul_apply, ha.comul_eq_tmul_self]; simp
+
+/-- A coalgebra isomorphism preserves group-like elements. -/
+@[simp] lemma isGroupLikeElem_map [EquivLike F A B] [CoalgEquivClass F R A B] (f : F) :
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
@[simp] lemma isGroupLikeElem_map_equiv [EquivLike F A B] [CoalgEquivClass F R A B] (f : F) :
```

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 36 above)
Comment (ocfnash) [inline Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:39]:
```suggestion
  toFun a :=
    { val := a
      inv := antipode R a
      val_inv := a.2.mul_antipode_cancel
      inv_val := a.2.antipode_mul_cancel }
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 40]
```diff
@@ -0,0 +1,155 @@
...
+    IsGroupLikeElem R (f a) ↔ IsGroupLikeElem R a where
+  mp ha := by
+    rw [← (CoalgEquivClass.toCoalgEquiv f).symm_apply_apply a]
+    exact ha.map (CoalgEquivClass.toCoalgEquiv f).symm
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
  mp ha := (CoalgEquivClass.toCoalgEquiv f).symm_apply_apply a ▸ ha.map _
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 41]
```diff
@@ -0,0 +1,155 @@
...
+  val : A
+  isGroupLikeElem_val : IsGroupLikeElem R val
+
+namespace GroupLike
+
+attribute [coe] val
+
+instance instCoeOut : CoeOut (GroupLike R A) A where coe := val
+
+attribute [simp] isGroupLikeElem_val
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
attribute [simp] isGroupLikeElem_val

attribute [coe] val

instance instCoeOut : CoeOut (GroupLike R A) A where coe := val
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 42]
```diff
@@ -0,0 +1,155 @@
...
+
+lemma val_injective : Injective (val : GroupLike R A → A) := by rintro ⟨a, ha⟩; congr!
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean:75]:
```suggestion
lemma val_injective : Injective (val : GroupLike R A → A) := fun _ _ ↦ GroupLike.ext
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 43]
```diff
@@ -0,0 +1,155 @@
...
+
+@[simp, norm_cast] lemma val_inj {a b : GroupLike R A} : a.val = b.val ↔ a = b :=
+  val_injective.eq_iff
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean:78]:
```suggestion
@[simp, norm_cast] lemma val_inj {a b : GroupLike R A} : a.val = b.val ↔ a = b :=
  GroupLike.ext_iff.symm
```

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 44]
```diff
@@ -0,0 +1,155 @@
...
+
+attribute [coe] val
+
+instance instCoeOut : CoeOut (GroupLike R A) A where coe := val
+
+attribute [simp] isGroupLikeElem_val
+
+lemma val_injective : Injective (val : GroupLike R A → A) := by rintro ⟨a, ha⟩; congr!
+
+@[simp, norm_cast] lemma val_inj {a b : GroupLike R A} : a.val = b.val ↔ a = b :=
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean:77]: I'm not very sure about the `simp` tag.

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean [hunk 45]
```diff
@@ -0,0 +1,155 @@
...
+  val_injective.eq_iff
+
+/-- Identity equivalence between `GroupLike R A` and `{a : A | IsGroupLikeElem R a}`. -/
```
Comment (kckennylau) [inline Mathlib/RingTheory/Coalgebra/GroupLike.lean]:
```suggestion
/-- Identity equivalence between `GroupLike R A` and `{a : A // IsGroupLikeElem R a}`. -/
```

File: Mathlib/RingTheory/Bialgebra/GroupLike.lean [hunk 46]
```diff
@@ -0,0 +1,87 @@
...
+
+variable {R A : Type*}
+
+section Semiring
+variable [CommSemiring R] [Semiring A] [Bialgebra R A] {a b : A}
+
+/-- In a bialgebra, `1` is a group-like element. -/
+lemma IsGroupLikeElem.one : IsGroupLikeElem R (1 : A) where
+  counit_eq_one := by simp
+  comul_eq_tmul_self := by simp [Algebra.TensorProduct.one_def]
```
Comment (kckennylau) [inline Mathlib/RingTheory/Bialgebra/GroupLike.lean]:
```suggestion
  counit_eq_one := counit_one
  comul_eq_tmul_self := comul_one
```

**Review by kckennylau — APPROVED** [review]

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: Ah I was confused by the "we don't have to prove it here". We don't have to prove it anywhere, it's false!

Comment (kckennylau) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: by "it" I meant the fact that GroupLike R[M] ~-* M

Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: Ah sure

Comment (erdOne) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: I thought this is still not true? In `(R x R)[G]`, `(1, 0)g + (0, 1)h` is a group like element.

Comment (kckennylau) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: for `R` integral domain

Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:43]: Yeah, but I don't need the full result Kenny is mentioning (that's also why I was so confused, I never alluded to that result, I don't need it and it is false). I only need that `of m` is a group-like element, and indeed that's always true. Eric's conjecture above implies that `of m` is regular for all `m`, but `of m` is regular iff `m` is cancellative. Now, my counterexample amounts to "Not all elements of all monoids are cancellative".

File: Mathlib/RingTheory/HopfAlgebra/GroupLike.lean (hunk 36 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/HopfAlgebra/GroupLike.lean:39]: See https://github.com/leanprover-community/mathlib4/pull/24730#discussion_r2503787436

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 42 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:75]: I don't see the point here. The current proof is  perfectly fine

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 43 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:78]: ditto

File: Mathlib/RingTheory/Coalgebra/GroupLike.lean (hunk 44 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/GroupLike.lean:77]: I am. Maybe my new simp lemma `mk_eq_mk` makes you less worried?

**Comment by YaelDillies** [comment]
bors merge
